US05280026
2-(2-Methylphenylamino)-4-(N-methylphenylamino)thieno[2,3-d]pyrimidine hydrochloride.
2-Chloro-4-(N-methylphenylamino)thieno[2,3-d]pyrimidine (1.5 g, 0.0054 mol) and o-toluidine (1.3 g, 0.012 mol) were heated at 160° in an oil bath for 2 hours. The addition of methanol gave a solid which was collected by filtration and dried. Recrystallization from ethanolic HCl gave the title compound as a partial hydrochloride salt, (1.13 g), m.p. 210°-212°.

reactant | 2-Chloro-4-(N-methylphenylamino)thieno[2,3-d]pyrimidine | 0.0054 mol, 1.5 g | ClC=1N=C(C2=C(N1)SC=C2)N(C)C2=CC=CC=C2 | C13H10ClN3S
reactant | o-toluidine | 0.012 mol, 1.3 g | NC=1C(=CC=CC1)C | C7H9N
solvent | methanol | CO | CH4O
product | 2-(2-Methylphenylamino)-4-(N-methylphenylamino)thieno[2,3-d]pyrimidine hydrochloride | Cl.CC1=C(C=CC=C1)NC=1N=C(C2=C(N1)SC=C2)N(C)C2=CC=CC=C2 | InChI=1S/C20H18N4S.ClH/c1-14-8-6-7-11-17(14)21-20-22-18(16-12-13-25-19(16)23-20)24(2)15-9-4-3-5-10-15;/h3-13H,1-2H3,(H,21,22,23);1H
